US20010014690A1
N-(Pyridin-4-yl)-[1-(4-nitrobenzyl)indol-3-yl]glyoxylamide (D-68836)
A solution of 4.50 ml of oxalyl chloride in 50 ml of ether is treated dropwise with a solution of 10.09 g (0.04 mol) of 1-(4-nitrobenzyl)indole in 50 ml of ether at 0° C. [sic] and under a nitrogen atmosphere. The mixture is heated at reflux temperature for 2 hours and the solvent is then evaporated. 100 ml of tetrahydrofuran are added to the residue, it is cooled to −5° C. and a solution of of [sic] 9.32 g (0.099 mol) of 4-aminopyridine in 400 ml of tetrahydrofuran is added dropwise. The mixture is heated to reflux for 3 hours and allowed to stand at room temperature overnight. The 4-aminopyridine hydrochloride is filtered off with suction, the precipitate is washed with tetrahydrofuran, the filtrate is concentrated in vacuo and the residue is recrystallized from ethyl acetate.

reactant | oxalyl chloride | 4.50 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(4-nitrobenzyl)indole | 0.04 mol, 10.09 g | [N+](=O)([O-])C1=CC=C(CN2C=CC3=CC=CC=C23)C=C1 | C15H12N2O2
reactant | 4-aminopyridine | 0.099 mol, 9.32 g | NC1=CC=NC=C1 | C5H6N2
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | N-(Pyridin-4-yl)-[1-(4-nitrobenzyl)indol-3-yl]glyoxylamide | N1=CC=C(C=C1)NC(C(=O)C1=CN(C2=CC=CC=C12)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C22H16N4O4
